US09375000B2
Step 4: Synthesis of 2-{[6-{3-[3,5-bis(trifluoromethyl)phenyl]-3-(trifluoromethyl)-pyrrolidin-1-yl}-4-(trifluoromethyl)pyridin-3-yl]methyl}-1H-isoindole-1,3(2H)-dione
[6-{3-[3,5-Bis(trifluoromethyl)phenyl]-3-(trifluoromethyl)pyrrolidin-1-yl}-4-(trifluoromethyl)pyridin-3-yl]methanol (0.98 g), phthalimide (0.30 g, 2.04 mmol) and triphenylphosphine (0.58 g) were dissolved in tetrahydrofuran (50 ml), and to the solution was added diethyl azodicarboxylate (40% toluene solution, 1.0 ml) at room temperature. After stirring the mixture for 3 hours, the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography to obtain the target compound (0.60 g).

reactant | [6-{3-[3,5-Bis(trifluoromethyl)phenyl]-3-(trifluoromethyl)pyrrolidin-1-yl}-4-(trifluoromethyl)pyridin-3-yl]methanol | 0.98 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C1(CN(CC1)C1=CC(=C(C=N1)CO)C(F)(F)F)C(F)(F)F)(F)F | C20H14F12N2O
reactant | phthalimide | 2.04 mmol, 0.30 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | 0.58 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 1.0 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-{[6-{3-[3,5-bis(trifluoromethyl)phenyl]-3-(trifluoromethyl)-pyrrolidin-1-yl}-4-(trifluoromethyl)pyridin-3-yl]methyl}-1H-isoindole-1,3(2H)-dione | 0.60 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C1(CN(CC1)C1=CC(=C(C=N1)CN1C(C2=CC=CC=C2C1=O)=O)C(F)(F)F)C(F)(F)F)(F)F | C28H17F12N3O2
